US06066658
A mixture of ethyl 5-azido-4,5,6,7-tetrahydro-4-oxo-3-propylthiobenzo[c]thiophene-1-carboxylate (4.24 g), palladium-carbon (5%, 50% wet, 4.0 g), propionic acid (70 ml) and propionic anhydride (35 ml) was subjected to a catalytic reduction reaction at room temperature under 1 atm. The insoluble substances were filtered off; the filtrate was concentrated under reduced pressure; the residue was dissolved in ethyl acetate-tetrahydrofuran (3:1, v/v). This solution was washed with water, a saturated aqueous solution of sodium hydrogen carbonate and water in that order, and dried (MgSO4), after which the solvent was distilled off to yield ethyl 4,5,6,7-tetrahydro-4-oxo-5-propionylamino-3-propylthiobenzo[c]thiophene-1-carboxylate (2.70 g, 58.4%), which was then recrystallized from ethyl acetate-hexane. Colorless needle crystal. Melting point 191-192° C.

reactant | ethyl 5-azido-4,5,6,7-tetrahydro-4-oxo-3-propylthiobenzo[c]thiophene-1-carboxylate | 4.24 g | N(=[N+]=[N-])C1C(C=2C(=C(SC2SCCC)C(=O)OCC)CC1)=O | C14H17N3O3S2
reactant | propionic anhydride | 35 ml | C(CC)(=O)OC(CC)=O | C6H10O3
catalyst | palladium-carbon | 4.0 g | [C].[Pd]
solvent | propionic acid | 70 ml | C(CC)(=O)O | C3H6O2
product | ethyl 4,5,6,7-tetrahydro-4-oxo-5-propionylamino-3-propylthiobenzo[c]thiophene-1-carboxylate | 2.70 g, 58.4% | O=C1C(CCC2=C(SC(=C21)SCCC)C(=O)OCC)NC(CC)=O | C17H23NO4S2
